US05707987
To a solution of p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (2.24 g, 3.78 mmol) in acetonitrile (70 ml), DIPA (0.9 ml, 5.16 mmol) was added under cooling with ice, and then a solution of (3S,5S)-3-mercapto-1-p-nitrobenzyloxycarbonyl-5-(phenylthiomethyl)pyrrolidine (1.39 g, 3.42 mmol) in acetonitrile (15 ml) was dropwise added thereto. The reaction solution was stirred at 5° C. overnight, and ethyl acetate (300 ml) was added to the reaction solution. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate), to give p-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(3S,5S)-1-p-nitrobenzyloxycarbonyl-5-(phenylthiomethyl)pyrrolidin-3-ylthio]-1-carbapen-2-em-3-carboxylate (1.55 g, yield: 60%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 3.78 mmol, 2.24 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (3S,5S)-3-mercapto-1-p-nitrobenzyloxycarbonyl-5-(phenylthiomethyl)pyrrolidine | 3.42 mmol, 1.39 g | S[C@@H]1CN([C@@H](C1)CSC1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H20N2O4S2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | p-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(3S,5S)-1-p-nitrobenzyloxycarbonyl-5-(phenylthiomethyl)pyrrolidin-3-ylthio]-1-carbapen-2-em-3-carboxylate | 1.55 g, yield: 60% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN([C@@H](C2)CSC2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C36H36N4O10S2
